US07262200B2
Step E: 2,4-Dichloro-6-piperidin-1-yl-quinazoline
To 6-Piperidin-1-yl-1H-quinazoline-2,4-dione (522 mg, 2.13 mmol) and triethyl amine hydrochloride (1.2 g, 8.5 mmol) was added POCl3 (20 mL) and the solution was heated to 120 C for 72 h. POCl3 was removed in vacuum and the resulting brown oil was quenched with ice water and treated with saturated NaHCO3, to afford a tan solid. Filtration and drying in vacuum gave title compound 550 mg (91% yield). HPLC tr=8.56 min (100%), FIA m/z 282.1 (M+H), HNMR (500 MHz, dmso): δ 8.05–8.00 (1H, d), 7.85–7.80 (1H, d), 7.20 (1H s), 5.50–4.40 (4H, m), 1.70–1.60 (6H, m).

reactant | 6-Piperidin-1-yl-1H-quinazoline-2,4-dione | 2.13 mmol, 522 mg | N1(CCCCC1)C=1C=C2C(NC(NC2=CC1)=O)=O | C13H15N3O2
reactant | triethyl amine hydrochloride | 8.5 mmol, 1.2 g | Cl.C(C)N(CC)CC
reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2,4-Dichloro-6-piperidin-1-yl-quinazoline | 550 mg, 91% yield | ClC1=NC2=CC=C(C=C2C(=N1)Cl)N1CCCCC1 | C13H13Cl2N3
